US07060827B2
In like manner to the preparation of N2,N4-bis(3-hydroxyphenyl)-5-fluoro-2,4-pyrimidinediamine, the reaction of 2,4-dichloro-5-fluoropyrimidine with 2,3-dimethyl-4-hydroxyaniline gave N2,N4-bis-(2,3-dimethyl-4-hydroxyphenyl)-5-fluoro-2,4-pyrimidinediamine. LCMS: ret. time: 19.07 min.; purity: 99%; MS (m/e): 369 (MH+); 1H NMR (DMSO-d6): δ 9.21 (1H, s), 8.99 (1H, s), 8.63 (1H, s), 7.92 (1H, s), 7.84 (1H, d, J=3.6 Hz), 6.94 (1H, d, J=8.5 Hz), 6.85 (1H, d, J=8.5 Hz), 6.70 (1H, d, J=8.5 Hz), 6.58 (1H, d, J=8.5 Hz), 2.12 (3H, s), 2.06 (3H, s), 2.02 (3H, s), 1.94 (3H, s).

reactant | 2,4-dichloro-5-fluoropyrimidine | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | 2,3-dimethyl-4-hydroxyaniline | CC1=C(N)C=CC(=C1C)O | C8H11NO
product | N2,N4-bis-(2,3-dimethyl-4-hydroxyphenyl)-5-fluoro-2,4-pyrimidinediamine | CC1=C(C=CC(=C1C)O)NC1=NC=C(C(=N1)NC1=C(C(=C(C=C1)O)C)C)F | C20H21FN4O2
